US04929622
6,12-Dimethyl-1,2,3,4,5,6-hexahydro-3-(2-propenyl)-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine
To a stirred solution of 1.86 g of 6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine and 40 ml of dimethylformamide was added 2.85 ml of diisopropylethyl amine. The mixture was cooled to 0° C. and 0.78 ml of allyl bromide in 5.0 ml of dimethylformamide was added, with stirring under nitrogen. The mixture was stirred at 0° for 4.5 hr and then poured into water and ethyl acetate. The layers were separated and the aqueous layer extracted with ethyl acetate and ether. The combined organic layers were washed with brine, dried over anhydrous potassium carbonate, filtered and, the filtrate was concentrated. The residue was purified by flash column chromatography on silica gel (2% triethylamine/0-10% methanol/ether) and on alumina (ether) to afford 1.02 g (47%) of product. Recrystallization from ether-pentane gave the analytical sample, mp 165°-168° C.

reactant | 6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine | 1.86 g | CC12C=NCC=CC3=C1CCC1=C3CC(N1)C2C | C16H20N2
reactant | diisopropylethyl amine | 2.85 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | allyl bromide | 0.78 ml | C(C=C)Br | C3H5Br
reactant | water | O | H2O
solvent | dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6,12-Dimethyl-1,2,3,4,5,6-hexahydro-3-(2-propenyl)-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine | 1.02 g, 47% | CC12C=NCC=CC3=C1CCC1=C3CC(N1CC=C)C2C | C19H24N2
